US07407959B2
Step 1: Preparation of 1-Bromo-4-[1-(difluoromethyl)vinyl]benzene
To activated zinc dust (13.3 g, 0.2 mol) in a 1 L flask was added THF (200 mL). Diiodomethane (8.9 mL, 110 mmol) was added dropwise over ˜10 min. The mixture was stirred at room temperature for 30 min. The mixture was cooled with an ice-acetone bath, a solution of tin(iv) chloride 1M in CH2Cl2 (22.1 mL, 22.1 mmol) was added over ˜15 min (needle tip inserted inside the mixture). The mixture was stirred for 15 min and the cooling bath was removed. The mixture was stirred at r.t for 30 min. After cooling back with an ice-acetone bath, a solution of 1-(4-bromophenyl)-2,2-difluoroethanone (5.2 g, 22.12 mmol) in THF (30 mL) was added dropwise over ˜10 min. The cooling bath was removed and the mixture was stirred at room temperature for 30 min. The mixture was then poured portionwise to a mixture of sodium bicarbonate (300 mL, 300 mmol) and hexanes (300 mL) at 0° C. After stirring for 15 min, the mixture was filtered through celite. The organic layer was separated, washed with brine, dried (Na2SO4) and concentrated. Chromatography over silica gel and elution with hexanes: Ethyl acetate (20:1) gave the title compound as a pale yellow liquid.

reactant | Diiodomethane | 110 mmol, 8.9 mL | ICI | CH2I2
reactant | tin(iv) chloride | 1M | [Sn](Cl)(Cl)(Cl)Cl
reactant | CH2Cl2 | 22.1 mmol, 22.1 mL | C(Cl)Cl | CH2Cl2
reactant | 1-(4-bromophenyl)-2,2-difluoroethanone | 22.12 mmol, 5.2 g | BrC1=CC=C(C=C1)C(C(F)F)=O | C8H5BrF2O
reactant | sodium bicarbonate | 300 mmol, 300 mL | C([O-])(O)=O.[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | zinc | 0.2 mol, 13.3 g | [Zn] | Zn
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 1-Bromo-4-[1-(difluoromethyl)vinyl]benzene | BrC1=CC=C(C=C1)C(=C)C(F)F | C9H7BrF2
